US08193246B2
Synthesis of Hexadecanoic acid 1-{[(15-carboxy-pentadecyl)-dimethyl-ammonium]methyl-2-hexadecanoyloxy-ethyl ester (w16-DPTAP)
w-16-DPTAP was synthesized as described in example 19 step c using 14 g (2,3-Bis-hexadecanoyloxy-propyl)-(16-hydroxyhexadecyl)-dimethyl-ammonium bromide, 0.05 g TEMPO, 0.382 g KBr, 0.3 g Aliquat™ and 1.43 g NaHCO3 dissolved in 95.6 ml sodium hypochlorite. The crude product was purified by column chromatography on silica gel (eluent:chloroform/methanol 8:1). The product was characterized by 1H-NMR and LC-MS.

reactant | (2,3-Bis-hexadecanoyloxy-propyl)-(16-hydroxyhexadecyl)-dimethyl-ammonium bromide | 14 g | [Br-].C(CCCCCCCCCCCCCCC)(=O)OC(C[N+](C)(C)CCCCCCCCCCCCCCCCO)COC(CCCCCCCCCCCCCCC)=O
reactant | TEMPO | 0.05 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | KBr | 0.382 g | [K+].[Br-]
reactant | NaHCO3 | 1.43 g | C(=O)(O)[O-].[Na+]
solvent | sodium hypochlorite | 95.6 ml | Cl[O-].[Na+]
product | Hexadecanoic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
